### PR TITLE
feat: add `Nat.Digits`

### PR DESCRIPTION
**Pull request by fgdorais**
This PR adds functions for calculating digit representation in any base. Both little-endian and big-endian versions are provided.

### CODE REVIEW

File: Batteries/Data/Nat/Digits.lean [hunk 1]
```diff
@@ -0,0 +1,303 @@
...
+theorem ofDigitsBE_append {l₁ l₂ : List (Fin base)} :
+    ofDigitsBE (l₁ ++ l₂) = ofDigitsBE l₁ * base ^ l₂.length + ofDigitsBE l₂ := by
+  induction l₁ with
+  | nil => simp
+  | cons d₁ l₁ ih =>
+    simp +arith [ih, Nat.add_mul, Nat.pow_add', Nat.mul_assoc]
+
+@[simp]
+theorem ofDigitsBE_reverse_eq_ofDigitsLE {l : List (Fin base)} :
+    ofDigitsBE l.reverse = ofDigitsLE l := by
```
Comment (eric-wieser) [inline Batteries/Data/Nat/Digits.lean:187]: I claim that because of this there really is no point having both versions of the function.

Comment (fgdorais) [reply Batteries/Data/Nat/Digits.lean:187]: There is:

* The LE version has an obvious user-friendly recursion pattern but is highly inefficient. (Stack overflow happens before 7000 digits.)
* The BE version is not user-friendly but it is naturally tail-recursive.
* The BE version is used via `csimp` to make an efficient implementation of the LE version.
* The BE version has an obvious use case that decimal numbers are in BE format.

Comment (fgdorais) [reply Batteries/Data/Nat/Digits.lean:187]: The names used here don't conflict with Mathlib at all. The expected blend-in is to use `toDigitsLE` (once `csimp` implemented as the reverse of `toDigitsBE`) as a more efficient replacement for Mathlib's `digitsAux`, the whole thing should be invisible to Mathlib users.

**Comment by linesthatinterlace** [comment]
You might want to consider that batteries#799 ought to be compatible with this. I am sure there's a lemma like this in Mathlib somewhere but I can't find it.
